* EEG Acquisition Channel SPICE Netlist
* Active Biosensing Circuity Schematics for NeuroMorph
* Designed for submillimetric cortex registration validation

.SUBCKT EEG_CHANNEL VIN VOUT VCC VEE GND
* Node VIN  : Scalp Electrode Input Potential
* Node VOUT : Denoised & Amplified Analog Output
* Node VCC  : Positive Power Supply (+5V)
* Node VEE  : Negative Power Supply (-5V)
* Node GND  : Analog System Ground

* 1. Impedance Matching Stage (Scalp-Electrode Interface)
* Matches electrode contact impedance to the front-end amplifier input
R_match VIN GND 5.0k
C_match VIN GND 14.0pF

* 2. Active High-Pass Filter (HPF) Stage
* Blocks DC offset and polarization potentials. Cutoff frequency ~0.5 Hz
C_hpf VIN N_hpf 0.1uF
R_hpf N_hpf GND 3.18MEG

* 3. Active Low-Pass Filter (LPF) Stage
* Attenuates high frequency noise and prevents aliasing. Cutoff frequency ~450 Hz
R_lpf N_hpf N_lpf 10.0k
C_lpf N_lpf GND 35.4nF

* 4. Instrumentation Amplifier Stage (AD8221 Macro-model)
* Amplifies the microvolt-level EEG signals. Target Gain = 150
* Subcircuit call to AD8221 pre-amplifier
X_amp N_lpf GND VCC VEE VOUT AD8221_INAMP

.ENDS EEG_CHANNEL


* --- AD8221 Instrumentation Amplifier Subcircuit Model ---
.SUBCKT AD8221_INAMP IN+ IN- V+ V- OUT
* High input impedance differential amplifier model with gain = 150
* Input impedance: 10 GOhm differential, 10 TOhm common-mode
R_in_diff IN+ IN- 10G
R_in_cm1 IN+ 0 10T
R_in_cm2 IN- 0 10T

* Gain stage (VCVS) with gain of 150
E_gain OUT_INT 0 IN+ IN- 150

* Output impedance model
R_out OUT_INT OUT 10
.ENDS AD8221_INAMP
